US04929634
Preparation of 2-phenyl-1-pyrroline-4-carbonitrile
A solution of acrylonitrile (0.65 mL; 0.01 mol) and N-(trimethylsilyl)methyl-S-methyl-benzenethioimidate (2.4 g; 0.01 mol) in THF (100 mL) is cooled to -5° C. in an ice-acetone bath. Under a nitrogen purge, a solution of tetrabutylammonium fluoride (1.0 mL of a 1N solution in THF) and THF (20 mL) is added dropwise over 30 minutes The solution is stirred another 30 minutes at -5° C. , and then allowed to warm slowly to ambient. Stirring is continued another 18 hours, and then solvent is removed under reduced pressure. The residue is partitioned between ether/water and the water layer extracted with fresh ether. The combined organic layer is washed with water, then saturated sodium chloride. The solution is dried over MgSO4, and cooling the filtrate causes precipitation of an off-white solid (1.2 g; 70% theoretical yield) whose spectral characteristics are identical to the material described by Tsuge [J. Org. Chem. 52, 2523 (1987)].

reactant | acrylonitrile | 0.01 mol, 0.65 mL | C(C=C)#N | C3H3N
reactant | N-(trimethylsilyl)methyl-S-methyl-benzenethioimidate | 0.01 mol, 2.4 g | C[Si](C)(C)CN=C([SH-]C)C1=CC=CC=C1
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-phenyl-1-pyrroline-4-carbonitrile | C1(=CC=CC=C1)C1=NCC(C1)C#N | C11H10N2
